US06465455B1
N-[2-chloro-5-(3-morpholinobenzamido)phenyl]-3,4-dimethoxybenzamide
3-Morpholinobenzoyl chloride (0.15 g) was added to a stirred solution of N-(5-amino-2-chlorophenyl)-3,4-dimethoxybenzamide (0.17 g) in pyridine (3 ml). The reaction mixture was stirred and heated to 115° C. for 18 hours. The mixture was allowed to cool and poured into water. The mixture was extracted with methylene chloride. The organic extract was dried (MgSO4) and evaporated. The resultant solid was azeotroped with toluene and triturated under diethyl ether to give the title compound (0.1 g), m.p. 147.9-148.3° C.;

reactant | 3-Morpholinobenzoyl chloride | 0.15 g | O1CCN(CC1)C=1C=C(C(=O)Cl)C=CC1 | C11H12ClNO2
reactant | N-(5-amino-2-chlorophenyl)-3,4-dimethoxybenzamide | 0.17 g | NC=1C=CC(=C(C1)NC(C1=CC(=C(C=C1)OC)OC)=O)Cl | C15H15ClN2O3
reactant | water | O | H2O
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | N-[2-chloro-5-(3-morpholinobenzamido)phenyl]-3,4-dimethoxybenzamide | 0.1 g | ClC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)N1CCOCC1)=O)NC(C1=CC(=C(C=C1)OC)OC)=O | C26H26ClN3O5
